US05371210
Bis-trimethylsilylcytosine was prepared by combining 292 mg of cytosine with 2 ml of hexamethyldisilazane, 11 mg of ammonium sulfate and 5 ml of xylenes and refluxing the solution for one hour to form a homogenous solution. The excess xylenes and hexamethyldisilazane were removed leaving behind a molten residue of bis-trimethylsilylcytosine. 400 mg of 2-deoxy-2,2-difluoro-D-ribofuranosyl-3,5-dibenzoyl-1-α-methanesulfonate, dissolved in 2 mi of xylenes, were added to the molten bis-trimethylsilylcytosine and the xylenes were removed. The temperature of the reaction mixture was maintained at 160° C. for 15 minutes. HPLC analysis confirmed completion of the reaction. The alpha to beta anomeric ratio of blocked nucleoside product was 1:1.3.

reactant | cytosine | 292 mg | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | hexamethyldisilazane | 2 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonium sulfate | 11 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | bis-trimethylsilylcytosine | C[Si](C)(C)N(C1=NC(NC=C1)=O)[Si](C)(C)C | C10H21N3OSi2
